US08859591B2
Trifluoroacetic acid (366 mL, 3.21 mmol) was added dropwise to a 0° C. solution of 1-(4-bromo-2-fluorophenyl)butan-ol (440 mg, 1.8 mmol) in dichloromethane (10 mL). Added Dess-Martin periodinane (1.21 g, 2.85 mmol) and let reaction warm to room temperature and stir for 2 hours. The reaction was quenched with 1 N aqueous sodium hydrosulfite (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave 1-(4-bromo-2-fluorophenyl)butan-1-one (330 mg, 75%) as a colorless oil. 1H NMR (400 MHz, CDCl3, δ): 7.65-7.69 (m, 1H), 7.32-7.45 (m, 2H), 2.83-2.87 (m, 2H), 1.62-1.71 (m, 2H), 0.90 (m, 3H).

reactant | Trifluoroacetic acid | 3.21 mmol, 366 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(4-bromo-2-fluorophenyl)butan-ol | 1.8 mmol, 440 mg | BrC1=CC(=C(C=C1)C(CCC)O)F | C10H12BrFO
reactant | Dess-Martin periodinane | 2.85 mmol, 1.21 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(4-bromo-2-fluorophenyl)butan-1-one | 330 mg, 75% | BrC1=CC(=C(C=C1)C(CCC)=O)F | C10H10BrFO
